US07618978B2
2-(S)-Dibenzylamino-3-phenyl-1-pyridin-2-yl-propan-1-(S)-ol
Dissolve 2-bromopyridine (2.73 mL, 28.63 mmol) in THF (150 mL) and cool to −78° C. Add n-butyllithium (12.0 mL, 2.5 M in hexanes). Slowly add 2-(S)-dibenzylamino-3-phenyl-propionaldehyde (4.71 g, 14.31 mmol) in THF (15 mL) and stir 30 min. Quench reaction with saturated aqueous ammonium chloride. Remove cold bath and warm to room temperature. Wash organic layer twice with 5% aqueous citric acid, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with dichloromethane and ethyl acetate) to give the title compound as a residue (3.654 g, 62%).

reactant | 2-bromopyridine | 28.63 mmol, 2.73 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 2.5 M, 12.0 mL | C(CCC)[Li]
reactant | 2-(S)-dibenzylamino-3-phenyl-propionaldehyde | 14.31 mmol, 4.71 g | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(S)-Dibenzylamino-3-phenyl-1-pyridin-2-yl-propan-1-(S)-ol | C(C1=CC=CC=C1)N([C@H]([C@H](O)C1=NC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28N2O
